US04343938
6-(p-Chlorophenyl)coumarin-3-carboxylic acid
4-(p-Chlorophenyl)phenol is converted via the Duff reaction [J. Chem. Soc., 547 (1941)] to 2-hydroxy-5-(p-chlorophenyl)benzaldehyde, mp. 74°-78° C. i.r. 6.02μ. A solution of 2]3 mg. (1 mmole) of this aldehyde, 0.4 ml. (2.63 mmole) of diethylmalonate and 0.2 ml. (2 mmole) of piperidine is heated for 10 minutes and kept at 25° C. for 2 hours. Then 5 ml. of 9 N HCl is added and the mixture stirred at reflux overnight. The mixture is cooled in an ice bath and filtered to yield 238 mg. of the desired compound, i.r. 5.74, 5.9μ.

reactant | 4-(p-Chlorophenyl)phenol | ClC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H9ClO
reactant | 2-hydroxy-5-(p-chlorophenyl)benzaldehyde | OC1=C(C=O)C=C(C=C1)C1=CC=C(C=C1)Cl | C13H9ClO2
reactant | diethylmalonate | 2.63 mmole | C(C)C(C(=O)[O-])(C(=O)[O-])CC
reactant | piperidine | 2 mmole | N1CCCCC1 | C5H11N
reactant | HCl | 9 N | Cl | ClH
product | 6-(p-Chlorophenyl)coumarin-3-carboxylic acid | ClC1=CC=C(C=C1)C=1C=C2C=C(C(OC2=CC1)=O)C(=O)O | C16H9ClO4
